US07125901B2
Sodium methoxide, 28% solution in MeOH (3.67 ml), was added dropwise to the mixture of methyl 3-[4-(methylthio)phenyl]propanoate (4 g) and diethyl oxalate (5.17 ml) at 0° C. with stirring. The reaction mixture was stirred at 65° C. for 30 minutes under reduced pressure. 15% Aqueous H2SO4 (35 ml) was added to the mixture, and the mixture was refluxed for 15 hours. After cooled to r.t., the mixture was extracted with AcOEt. The organic layer was washed with water and brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residual oil was dissolved in EtOH (20 ml), and concentrated H2SO4 (0.4 ml) was added dropwise to the solution. The reaction mixture was refluxed for 2 hours. After cooled to r.t., EtOH was removed in vacuo. AcOEt and water were added to the residue, and extracted. The organic layer was washed with water and brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified by flash column chromatography over silica gel with n-hexane/AcOEt (6:1) as an eluent to give ethyl 4-[4-(methylthio)phenyl]-2-oxobutanoate (2.43 g) as a yellow liquid.

reactant | Sodium methoxide | C[O-].[Na+]
reactant | methyl 3-[4-(methylthio)phenyl]propanoate | 4 g | CSC1=CC=C(C=C1)CCC(=O)OC | C11H14O2S
reactant | diethyl oxalate | 5.17 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | H2SO4 | 35 ml | OS(=O)(=O)O | H2O4S
solvent | MeOH | 3.67 ml | CO | CH4O
product | ethyl 4-[4-(methylthio)phenyl]-2-oxobutanoate | 2.43 g | CSC1=CC=C(C=C1)CCC(C(=O)OCC)=O | C13H16O3S
